US06369273B1
6-Nitro-3-(pyrid-4-ylthio)anisole
5-Chloro-2-nitroanisole (9.38 g) was added to a solution of 4-mercaptopyridine potassium salt prepared by adding 4-mercaptopyridine (6.67 g) to a solution of potassium hydroxide (3.37 g) in methanol (30 ml) followed by evaporation of the methanol) and DMF (40 ml). After stirring for 1 hour, the mixture was heated at 110° C. for 4 hours and allowed to stand overnight. The reaction mixture was poured into ice-water (1 liter), stirred for 15 minutes, and the yellow solid was filtered off. The solid was stirred with 3M hydrochloric acid (800 ml) for 1 hour, filtered, and the filter cake was washed with 3M hydrochloric acid then water. The filtrate was cooled in an ice-bath and made basic with 28% aqueous ammonium hydroxide to yield approximately 2 g of the title compound. The filter cake was suspended in water (100 ml) with stirring and the mixture was made basic with saturated sodium hydrogen carbonate and extracted with ethyl acetate. The organics were combined, dried, filtered and evaporated to give a yellow solid that was triturated with hexane and filtered to give additional title compound (total yield 6.49 g). M.p. 97-100° C.; MS: 263 (M+H); NMR: 3.94 (s, 3H), 7.17 (dd, 1H, J=1.8, 8.4), 7.27-7.7.29 (m, 2H), 7.51 (d, 1H, J=1.8), 7.97 (d, 1H, J=8.4), 8.48-8.50 (m, 2H).

reactant | 5-Chloro-2-nitroanisole | 9.38 g | ClC=1C=CC(=C(C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | 4-mercaptopyridine potassium salt | [K].SC1=CC=NC=C1
reactant | 4-mercaptopyridine | 6.67 g | SC1=CC=NC=C1 | C5H5NS
reactant | potassium hydroxide | 3.37 g | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-Nitro-3-(pyrid-4-ylthio)anisole | approximately 2 g | [N+](=O)([O-])C1=CC=C(C=C1OC)SC1=CC=NC=C1 | C12H10N2O3S
